US07572809B2
d) Preparation of 5-Fluoro-6-(2-methoxy-ethoxy)-indan-1-one
The mixture of 3-[3-Fluoro-4-(2-methoxy-ethoxy)-phenyl]-propionic acid (16 g) in SOCl2 (50 ml) was refluxed for 4 hours. The mixture was evaporated, the residue was dissolved in CS2 (100 ml), and then AlCl3 (20 g) was added. The mixture was heated at 45° C. for 4 hours. 200 ml of ice-water was added to the cooled mixture and the mixture was stirred for another 1 hour. The mixture was extracted by ethyl acetate (300 ml×3). The product was purified by flash column chromatography using ethyl acetate:PE=5:1 as eluent. LC-MS: m/e 225 (MH+).

reactant | 3-[3-Fluoro-4-(2-methoxy-ethoxy)-phenyl]-propionic acid | 16 g | FC=1C=C(C=CC1OCCOC)CCC(=O)O | C12H15FO4
solvent | SOCl2 | 50 ml | O=S(Cl)Cl | Cl2OS
product | 5-Fluoro-6-(2-methoxy-ethoxy)-indan-1-one | FC=1C=C2CCC(C2=CC1OCCOC)=O | C12H13FO3
